US05663336
4,5-Bis(N-allyl-N-phenylamino)phthalimide
In an autoclave, 457 mg (1 mmol) of 4,5-bis(N-allylanilino)phthalic acid dimethyl ester are dissolved in 5 ml of methanol, and 15 ml of ammonia are Used for the purpose of amide formation. The autoclave is closed and then heated at 120° C. for 24 hours, then cooled and opened, and the ammonia is driven off with nitrogen. The residue is rinsed out with ethyl acetate and filtered, and the filtrate is chromatographed on silica gel with hexane/ethyl acetate 3:1. The product fractions are concentrated by evaporation and crystallized from hexane/ethyl acetate, yielding the title compound in the form of yellow crystals, FAB-MS: 410 [M+ +H], m.p. 122°-127° C. As byproduct of the reaction, 4,5-Bis-(N-allyl-N-phenylamino)phthalic acid monoamide was isolated and recrystallized from hexane/ethyl acetate to yield yellow crystals, FAB-MS: 428 [M+ +H], m.p. 114°-116° C.

reactant | 4,5-bis(N-allylanilino)phthalic acid dimethyl ester | 1 mmol, 457 mg | COC(C=1C(C(=O)OC)=CC(=C(C1)N(C1=CC=CC=C1)CC=C)N(C1=CC=CC=C1)CC=C)=O | C28H28N2O4
reactant | ammonia | 15 ml | N | H3N
solvent | methanol | 5 ml | CO | CH4O
product | 4,5-Bis(N-allyl-N-phenylamino)phthalimide | C(C=C)N(C1=CC=CC=C1)C=1C=C2C(C(=O)NC2=O)=CC1N(CC=C)C1=CC=CC=C1 | C26H23N3O2
